US08563541B2
Step 1: 4-bromo-3,5-dimethylpyridine 1-oxide
To a solution of 3,5-dimethylpyridine 1-oxide (6.1 g, 50 mmol) in acetic acid (30 mL) was added thallium(III) triacetate (5.0 g, 13 mmol) and bromine (2.6 mL, 50 mmol). The resulting solution was heated at 60° C. overnight. The reaction was concentrated in vacuo, diluted with water and ethyl acetate. The organic layer was concentrated and residue was purified by silica gel chromatography to afford the desired product (5.40 g, 54%). 1H NMR (400 MHz, CDCl3): δ 7.96 (s, 2H), 2.38 (s, 6H).

reactant | 3,5-dimethylpyridine 1-oxide | 50 mmol, 6.1 g | CC=1C=[N+](C=C(C1)C)[O-] | C7H9NO
reactant | thallium(III) triacetate | 13 mmol, 5.0 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Tl+3]
reactant | bromine | 50 mmol, 2.6 mL | BrBr | Br2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-3,5-dimethylpyridine 1-oxide | 5.40 g, 54% | BrC1=C(C=[N+](C=C1C)[O-])C | C7H8BrNO
